US03940411
Preparation of 2-(5-Amino-4H-1,2,4-triazol-3-yl)-1-methyl-5-nitroimidazole (VIB)
In 110 ml. of nitrobenzene, 7.6 g. (0.029 mole) of 2-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-1-amidinohydrazine hydrochloride is stirred at reflux temperature for 2 3/4 hours, cooled, and the solid collected. This solid is washed with ethyl alcohol, ether, and air-dried to give 6 g. of the title compound, melting point 278°-280° (dec.). The product is purified by removing soluble impurities in a Soxhlet extractor with 95% ethanol. The insoluble products melts at 297°-299° (dec.).

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 2-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-1-amidinohydrazine hydrochloride | 0.029 mole | Cl.CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(N)=N
product | 2-(5-Amino-4H-1,2,4-triazol-3-yl)-1-methyl-5-nitroimidazole | NC=1NC(=NN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H7N7O2
